US05922711
To a solution of 2-ethyl-4-hydroxy-8-methoxyquinoline (9.96 g) in phosphoryl chloride (30 ml) was added N,N-dimethylaniline (12.44 ml) below 8° C. in an ice bath. After 10 minutes the mixture was stirred at ambient temperature for 1.5 hours. The solvent was removed in vacuo. The residue was partitioned into dichloromethane and saturated sodium bicarbonate solution. The organic layer was washed with brine and dried over magnesium sulfate. The organic layer was evaporated in vacuo. The residue was purified by column chromatography (hexane--ethyl acetate) and recrystallized from hexane to give 4-chloro-2-ethyl-8-methoxyquinoline (8.90 g) as crystals. mp: 80-81° C.

reactant | 2-ethyl-4-hydroxy-8-methoxyquinoline | 9.96 g | C(C)C1=NC2=C(C=CC=C2C(=C1)O)OC | C12H13NO2
reactant | N,N-dimethylaniline | 12.44 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphoryl chloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-ethyl-8-methoxyquinoline | 8.90 g | ClC1=CC(=NC2=C(C=CC=C12)OC)CC | C12H12ClNO
